US07368424B2
N-(tert-Butoxycarbonyl)-3-(tert-butyl)-D-alanyl-3-(3-pyridyl)-L-alanine methyl ester
N-methylmorpholine (5 equivalents, 6.0 mmol), EDC (2.5 equivalents, 3.0 mmol) and HOBt (2.5 equivalents, 3.0 mmol) are added slowly to a solution of N-(tert-butoxycarbonyl)-3-tert-butyl-D-alanine (1.0 equivalent, 1.2 mmol) and 3-(3-pyridyl)-L-alanine methyl ester (1.0 equivalent, 1.2 mmol) in dry dichloromethane (3 ml) at −30° C. The reaction mixture slowly (approx. 12 h) warms to room temperature, with complete conversion being observed by means of HPLC (method 36). The reaction mixture is worked up by diluting with dichloromethane (20 ml) and washing with saturated sodium bicarbonate solution (10 ml). The organic phase is dried with magnesium sulphate, filtered and concentrated. The crude product is purified by flash chromatography (silica gel, gradient dichloromethane 100% to dichloromethane/methanol: 4/1), resulting in 466 mg (96% of theory) of product.

reactant | N-methylmorpholine | 6.0 mmol, 5 equivalents | CN1CCOCC1 | C5H11NO
reactant | EDC | 3.0 mmol, 2.5 equivalents
reactant | HOBt | 3.0 mmol, 2.5 equivalents | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(tert-butoxycarbonyl)-3-tert-butyl-D-alanine | 1.2 mmol, 1.0 equivalent | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)O | C12H23NO4
reactant | 3-(3-pyridyl)-L-alanine methyl ester | 1.2 mmol, 1.0 equivalent | COC([C@@H](N)CC=1C=NC=CC1)=O | C9H12N2O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(tert-Butoxycarbonyl)-3-(tert-butyl)-D-alanyl-3-(3-pyridyl)-L-alanine methyl ester | COC([C@@H](NC([C@H](NC(=O)OC(C)(C)C)CC(C)(C)C)=O)CC=1C=NC=CC1)=O | C21H33N3O5
